US09119868B2
Step 1: 6-(N-(3-Chloro-4-nitrophenyl)methylsulfonamido)-2-(4-chlorophenyl)-5-cyclopropyl-N-methylbenzofuran-3-carboxamide
A mixture of 2-(4-chlorophenyl)-5-cyclopropyl-N-methyl-6-(methylsulfonamido)benzofuran-3-carboxamide (2.00 g, 4.77 mmol), 2-chloro-4-fluoronitrobenzene (1.68 g, 9.55 mmol), and potassium carbonate (1.98 g, 14.3 mmol) in 4:1 DME/water (20 mL) in a sealed vessel was heated to 100° C. with stirring. After 18 hours the mixture was treated with an additional 2.00 g portion of potassium carbonate, heated at 100° C. for another 15 hours, and then stirred at RT for 3 days. The mixture was partitioned between EtOAc and water. After separating the phases, the aqueous portion was extracted with two additional portions of EtOAc. The combined EtOAc solutions were washed with water (2×), brine (1×), dried over sodium sulfate and concentrated to dryness at reduced pressure. The crude material was subjected to flash chromatography (silica gel, gradient from DCM to 7:3 DCM/EtOAc) to afford a tacky, yellow foam. This material was crystallized from hexane/EtOAc to give the title compound (1.78 g, 65%) as a light yellow solid. LCMS (m/z, ES+)=574 (M+H+).

reactant | 2-(4-chlorophenyl)-5-cyclopropyl-N-methyl-6-(methylsulfonamido)benzofuran-3-carboxamide | 4.77 mmol, 2.00 g | ClC1=CC=C(C=C1)C=1OC2=C(C1C(=O)NC)C=C(C(=C2)NS(=O)(=O)C)C2CC2 | C20H19ClN2O4S
reactant | 2-chloro-4-fluoronitrobenzene | 9.55 mmol, 1.68 g | ClC1=C(C=CC(=C1)F)[N+](=O)[O-] | C6H3ClFNO2
reactant | potassium carbonate | 14.3 mmol, 1.98 g | C([O-])([O-])=O.[K+].[K+]
solvent | DME water | 20 mL | COCCOC.O
product | 6-(N-(3-Chloro-4-nitrophenyl)methylsulfonamido)-2-(4-chlorophenyl)-5-cyclopropyl-N-methylbenzofuran-3-carboxamide | 1.78 g, 65% | ClC=1C=C(C=CC1[N+](=O)[O-])N(S(=O)(=O)C)C1=CC2=C(C(=C(O2)C2=CC=C(C=C2)Cl)C(=O)NC)C=C1C1CC1 | C26H21Cl2N3O6S
